US08975282B2
Step 1) 3-acetoxycyclobutanecarboxylic acid
To a solution of 3-hydroxycyclobutanecarboxylic acid (100 mg, 0.86 mmol) in DCM (10 mL) was added DMAP (1.0 mg, 0.086 mmol). The solution was cooled to 0° C., followed by the addition of acetyl chloride (0.14 mL, 2.6 mmol). The reaction was heated at 45° C. for 4 hours, then cooled to rt and diluted with DCM (20 mL). The mixture was washed with water (10 mL), followed by washing with brine (10 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to obtained the crude product which was used in the next step without further purification.

reactant | 3-hydroxycyclobutanecarboxylic acid | 0.86 mmol, 100 mg | OC1CC(C1)C(=O)O | C5H8O3
reactant | acetyl chloride | 2.6 mmol, 0.14 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.086 mmol, 1.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-acetoxycyclobutanecarboxylic acid | C(C)(=O)OC1CC(C1)C(=O)O | C7H10O4
